US04963543
A solution of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylamino)ethyloxymethyl]pyrrolidine (0.90 g) in dimethylformamide (2 ml) was added to a reaction mixture of thioacetic S-acid (0.16 ml) and sodium hydride (62.8% in oil suspension) (0.07 g) in dimethylformamide (9 ml) in a nitrogen stream and the mixture was heated at 70°-75° C. for 6 hours. The mixture was poured into water (100 ml), extracted with ethyl acetate (50 ml×2), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with chloroform to give (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylamino)ethyloxymethyl]pyrrolidine (0.60 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylamino)ethyloxymethyl]pyrrolidine | 0.90 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H28N4O12S
reactant | thioacetic S-acid | 0.16 ml | C(C)(=O)S | C2H4OS
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylamino)ethyloxymethyl]pyrrolidine | 0.60 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N4O10S
